US04939261
To the solution of 0.52 g of 3-amino-1-propanol in 10 ml of methylene chloride is added 0.5 g of 4-ethoxycarbonyl-2,4-(R*,R*)-dibenzylbutyryl chloride in 10 ml of methylene chloride. The mixture is stirred 10 minutes at room temperature. The reaction mixture is concentrated and diluted with ethyl acetate. The organic portions are washed with 1N hydrochloric acid, saturated sodium bicarbonate and saturated sodium chloride. The organic layer is dried over magnesium sulfate, filtered and concentrated to give N-[4-ethoxycarbonyl-2,4-(R*,R*)-dibenzylbutyryl]-3-amino-1-propanol as a colorless oil; NMR (CDCl3) δ 7.31 and 7.28 (s, 10H, Ar-H), 5.82 (t, 1H, J=7 Hz, NH), 4.02 (q, 2H, J=8 Hz, OCH2), 3.3-1.25 (m, 15H), 1.10 (t, 3H, J=8 Hz, CH3).

reactant | 3-amino-1-propanol | 0.52 g | NCCCO | C3H9NO
reactant | 4-ethoxycarbonyl-2,4-(R*,R*)-dibenzylbutyryl chloride | 0.5 g | C(C)OC(=O)[C@H](C[C@@H](C(=O)Cl)CC1=CC=CC=C1)CC1=CC=CC=C1 | C21H23ClO3
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | N-[4-ethoxycarbonyl-2,4-(R*,R*)-dibenzylbutyryl]-3-amino-1-propanol | C(C)OC(=O)[C@H](C[C@@H](C(=O)NCCCO)CC1=CC=CC=C1)CC1=CC=CC=C1 | C24H31NO4
